US08314087B2
5-Bromo-1-(2-(tert-butyldimethylsilyloxy)ethyl)pyrazin-2(1H)-one.
5-Bromopyrazin-2-ol (1.209 g, 6.91 mmol) was dissolved in DMF (10.0 mL) and sodium hydride (60% in mineral, 530 mg, 13.25 mmol) was added. The reaction flask was put in a water bath and stirred under argon for 15 minutes, and then (2-bromoethoxy)(tert-butyl)dimethylsilane (1.69 mL, 7.93 mmol) was added as a solution in DMF (4.7 mL total volume), followed by a ˜0.5 mL rinse with DMF. The reaction was stirred under argon at room temperature for 2 days. It was then quenched with water (50 mL) and extracted with EtOAc (3×50 mL). The organic extracts were combined, washed with water (4×50 mL) and brine (50 mL), dried over sodium sulfate, filtered, and concentrated. The material was taken on crude to the next step.

reactant | 5-Bromopyrazin-2-ol | 6.91 mmol, 1.209 g | BrC=1N=CC(=NC1)O | C4H3BrN2O
reactant | sodium hydride | 13.25 mmol, 530 mg | [H-].[Na+]
reactant | (2-bromoethoxy)(tert-butyl)dimethylsilane | 7.93 mmol, 1.69 mL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4.7 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-1-(2-(tert-butyldimethylsilyloxy)ethyl)pyrazin-2(1H)-one | BrC=1N=CC(N(C1)CCO[Si](C)(C)C(C)(C)C)=O | C12H21BrN2O2Si
